US04652652
A solution of 2-(2-amino-4-thiazolyl)malonic acid diethyl ester in a mixture of acetic anhydride (6 parts) and formic acid (6 parts) is stirred at 0° C. for 1 hour. The reaction mixture is concentrated in vacuum, diluted with ethyl acetate, washed with diluted hydrochloric acid, aqueous sodium hydrogen carbonate, and water, dried, and concentrated in vacuum to give 2-(2-formamido-4-thiazolyl)malonic acid diethyl ester. Yield: 70%.

reactant | 2-(2-amino-4-thiazolyl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C=1N=C(SC1)N)=O | C10H14N2O4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | C(=O)O | CH2O2
product | 2-(2-formamido-4-thiazolyl)malonic acid diethyl ester | Yield: 70% | C(C)OC(C(C(=O)OCC)C=1N=C(SC1)NC=O)=O | C11H14N2O5S
